US05910495
2-(3-Amino-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo [b] [1,4] diazepine-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To a stirred solution of 2-[2,4-dioxo-5-phenyl-3-(phenyl-hydrazono)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (4.28 g) in acetic acid (50 mL) at ambient temperature, was added zinc dust (4.11 g) and stirred three hours. The zinc was filtered off, the filtrate concentrated in vacuo, and the resultant oil partitioned between water (60 mL) and ethyl acetate (100 mL). The pH was adjusted to 8 with 6N sodium hydroxide and the phases separated. The aqueous phase was extracted with ethyl acetate (2×75 mL) and the organics combined, dried with magnesium sulfate, filtered and concentrated in vacuo to give a yellow foam. The crude product was purified via flash chromatography on silica gel (80 g) eluted successively with ethyl acetate (260 mL) (to remove impurity) and methylene chloride/methanol (19:1, 200 ml) (to elute product). Appropriate fractions were combined and concentrated to give the title compound (2.58 g) as a yellow foam.

reactant | 2-[2,4-dioxo-5-phenyl-3-(phenyl-hydrazono)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 4.28 g | O=C1C(C(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)=NNC2=CC=CC=C2 | C33H31N5O4
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 4.11 g | [Zn] | Zn
product | 2-(3-Amino-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo [b] [1,4] diazepine-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 2.58 g | NC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H28N4O4
